US06048894
(1) Preparation of (2RS,3SR)-3-(hydroxymethyl)-4-{5-(phenylcarbamoyl)-2-furyl}butan-2-ol
3.0 g of tert-butyl (2RS,3SR)-3-hydroxy-2-{5-(phenylcarbamoyl)-2-furylmethyl}butanoate [the compound prepared in Reference Example 3(2)] in 30 ml of tetrahydrofuran was stirred together with 1.09 g of lithium borohydride at room temperature for 2 hours. The reaction solution was cooled to 0° C., mixed with 2N hydrochloric acid and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure to give 1.56 g of the title compound as a colorless oily substance.

reactant | tert-butyl (2RS,3SR)-3-hydroxy-2-{5-(phenylcarbamoyl)-2-furylmethyl}butanoate | 3.0 g | OC(C(C(=O)OC(C)(C)C)CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C | C20H25NO5
reactant | lithium borohydride | 1.09 g | [BH4-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2RS,3SR)-3-(hydroxymethyl)-4-{5-(phenylcarbamoyl)-2-furyl}butan-2-ol | 1.56 g | OCC(C(C)O)CC=1OC(=CC1)C(NC1=CC=CC=C1)=O | C16H19NO4
